US09169254B2
3-But-3-enyloxy-5-trifluoromethyl-benzoic acid but-3-enyl ester (2.64 g, 8.39 mmol) was dissolved in methanol. A 5 N aqueous sodium hydroxide solution (5.1 ml, 25.2 mmol) was added and the mixture was stirred at room temperature for two hours. The reaction solution was cooled, quenched with 2 N hydrochloric acid (20 ml, 40 mmol) and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and then dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 3-but-3-enyloxy-5-trifluoromethyl-benzoic acid (2.13 g, 98%).

reactant | 3-But-3-enyloxy-5-trifluoromethyl-benzoic acid but-3-enyl ester | 8.39 mmol, 2.64 g | C(CC=C)OC(C1=CC(=CC(=C1)C(F)(F)F)OCCC=C)=O | C16H17F3O3
reactant | sodium hydroxide | 25.2 mmol, 5 N, 5.1 ml | [OH-].[Na+]
reactant | hydrochloric acid | 40 mmol, 2 N, 20 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-but-3-enyloxy-5-trifluoromethyl-benzoic acid | 2.13 g, 98% | C(CC=C)OC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C12H11F3O3
